US04879309
To a solution of 12.3 g of 3-aminobenzoic acid in 75 ml of DMF, add 90 ml of 1N sodium hydroxide solution. Cool this solution in ice and add 22.8 g of di-tert-butyldicarbonate. Stir the solution for 41 hrs., concentrate in vacuo and dissolve the residue in a mixture of 200 ml each of ethylacetate and ice water. With stirring, adjust the pH to 3.0 with 20% aqueous citric acid. Separate the organic layer and wash it 4 times with 50 ml of 10% aqueous citric acid followed by 50 ml of saturated sodium chloride solution. Dry the organic layer over magnesium sulfate and concentrate in vacuo. Triturate the residue with hexane to give 3-tert-butyloxycarbonylaminobenzoic acid as a white solid.

reactant | 3-aminobenzoic acid | 12.3 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | sodium hydroxide | 1N, 90 ml | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 22.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 3-tert-butyloxycarbonylaminobenzoic acid | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C12H15NO4
